US04830664
4.3 Parts of a syn-anti-mixture of 9-oximino-1,2,3,4,4a,9,9a,10-octahydroanthracene were dissolved in 40 ml of tetrahydrofuran and 8.7 ml of methanolic hydrochloric acid. 1.3 Parts of a 10% palladium-on-carbon catalyst were added and the mixture was hydrogenated with 896 ml gaseous hydrogen at 30°-35° C. and normal pressure within 30 minutes. The catalyst was filtered off, and the filtrate concentrated. 4 Parts of 9-amino-1,2,3,4,4a,9,9a,10-octahydroanthracene hydrochloride, mp. 240°-245° C., were obtained. The hydrochloride was dissolved in water, and sodium hydroxide was added to adjust the pH-value to pH 8. The alkaline solution was extracted with ether. The combined etheral phases were dried with Na2SO4, filtered and concentrated. 2.8 Parts (70% of theory) of 9-amino-1,2,3,4,4a,9,9a,10-octahydroanthracene (int. 13), mp. 37°-39° C., were obtained. The amine-product consists of a mixture of at least 3 stereochemical isomers.

reactant | 9-oximino-1,2,3,4,4a,9,9a,10-octahydroanthracene | N(O)=C1C2=CC=CC=C2CC2CCCCC12 | C14H17NO
reactant | hydrogen | 896 ml | [H][H] | H2
reactant | hydrochloric acid | 8.7 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 9-amino-1,2,3,4,4a,9,9a,10-octahydroanthracene hydrochloride | Cl.NC1C2=CC=CC=C2CC2CCCCC12 | InChI=1S/C14H19N.ClH/c15-14-12-7-3-1-5-10(12)9-11-6-2-4-8-13(11)14;/h1,3,5,7,11,13-14H,2,4,6,8-9,15H2;1H
